US09212190B2
Into a 10-mL round-bottom flask placed a solution of 2-[(3R)-12-[(4-amino-4-ethylcyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethan-1-ol (120 mg, 0.33 mmol, 1.00 equiv) in 5 mL of methanol was added HCHO (37%, 1 mL) and the reaction was stirred at room temperature for 30 min. Then NaBH3CN (83 mg, 1.32 mmol, 3.97 equiv) was added to the reaction mixture and stirred for 8 hr at room temperature. After completion, the reaction mixture was diluted with water and extracted with DCM. After concentration in vacuo, The crude product (120 mg) was purified by preparative HPLC under the following conditions (SHIMADZU): column: SunFire Prep C18, 19*150 mm 5 um; mobile phase: water with 50 mM NH4HCO3 and CH3CN (6.0% CH3CN up to 52.0% in 14 min); flow rate: 20 mL/min; UV detection at 254/220 nm. The product-containing fractions were collected and partially evaporated to remove water and CH3CN under reduced pressure. The residue was lyophilized overnight to give the desired 2-[(3R)-12-[[4-(dimethylamino)-4-ethylcyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethan-1-ol (41.4 mg) as a white semi-solid. MS (ES): m/z 390 [M+H]+. 1H NMR (400 MHz, CD3OD): δ 8.47 (s, 1H), 5.44-5.46 (m, 1H), 3.64-3.69 (m, 2H), 3.32-3.33 (m, 1H), 3.10-3.12 (m, 1H), 2.99-3.02 (m, 1H), 2.68 (m, 1H), 2.09-2.39 (m, 10H), 1.61-1.86 (m, 9H), 0.93-0.96 (t, 3H).

reactant | 2-[(3R)-12-[(4-amino-4-ethylcyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethan-1-ol | 0.33 mmol, 120 mg, 1.00 equiv | NC1(CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CCO)CC | C19H27N3O2S
reactant | HCHO | 1 mL | C=O | CH2O
reactant | NaBH3CN | 1.32 mmol, 83 mg, 3.97 equiv | [BH3-]C#N.[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | water | O | H2O
product | 2-[(3R)-12-[[4-(dimethylamino)-4-ethylcyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethan-1-ol | 41.4 mg | CN(C1(CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CCO)CC)C | C21H31N3O2S
